US07144913B2
Step 1: bis[4-(trifluoromethyl)phenyl]disulfide
To a solution of 4-(trifluoromethyl)benzenethiol (1 g) in Et2O was added bromine until orange color remained. The addition was stopped and the organic layer was washed with 1:1 aqueous saturated NaHCO3/10% aqueous Na2S203, dried over Na2SO4 and concentrated to give the title compound used as such.

reactant | 4-(trifluoromethyl)benzenethiol | 1 g | FC(C1=CC=C(C=C1)S)(F)F | C7H5F3S
reactant | bromine | BrBr | Br2
solvent | Et2O | CCOCC | C4H10O
product | bis[4-(trifluoromethyl)phenyl]disulfide | FC(C1=CC=C(C=C1)SSC1=CC=C(C=C1)C(F)(F)F)(F)F | C14H8F6S2
